US04075341
2-Phenyl-s-triazolo[5,1-a]isoquinoline
A mixture of 0.5 g. (0.002 mole) of 2-phenyl-5,6-dihydro-s-triazolo[5,1-a]isoquinoline and 0.28 g. (0.002 mole) of N-bromoacetamide in 10 ml. of carbon tetrachloride is refluxed for 5 hours. The crystalline precipitate which forms is filtered and dissolved in methylene chloride. The resulting solution is washed with sodium bicarbonate, then the solvent is evaporated off and the obtained residue recrystallized from ethyl acetate. Yield 79%.

reactant | 2-phenyl-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | 0.002 mole | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C16H13N3
reactant | N-bromoacetamide | 0.002 mole | BrNC(C)=O | C2H4BrNO
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Phenyl-s-triazolo[5,1-a]isoquinoline | Yield 79% | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C3C=C2)=N1 | C16H11N3
